US04782050
B. 1-Allylbenzimidazole-2-carboxaldehyde
To a solution of 10 g (0.053 mole) of 1-allylbenzimidazole in 75 ml of tetrahydrofuran cooled to -78° C. was added 20.68 ml (0.053 mole) of 2.6M n-butyllithium in hexane over a period of 15 minutes. After 30 minutes of stirring 4.28 ml (0.053 mole) of ethyl formate was added and the reaction allowed to stir for one hour. Acetic acid (3.03 ml, 0.053 mole) was added, the cooling bath removed and the mixture allowed to warm to -20° C. The mixture was poured into water and the product extracted (3×100 ml) with ethyl acetate. The extracts were combined, dried over magnesium sulfate and concentrated to a brown oil which was chromatographed on 350 g of silica gel using ethyl acetate-chloroform as the eluent, 2.3 g.

reactant | 1-allylbenzimidazole | 0.053 mole, 10 g | C(C=C)N1C=NC2=C1C=CC=C2 | C10H10N2
reactant | n-butyllithium | 0.053 mole, 2.6M, 20.68 ml | C(CCC)[Li]
reactant | ethyl formate | 0.053 mole, 4.28 ml | C(=O)OCC | C3H6O2
reactant | Acetic acid | 0.053 mole, 3.03 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-Allylbenzimidazole-2-carboxaldehyde | C(C=C)N1C(=NC2=C1C=CC=C2)C=O | C11H10N2O
